US04772600
2-(3,4-Dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester
A mixture of N-[3-[(3,4-dichlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester (33 g, 0.09 mole) and 167 ml of ethylene glycol was heated at reflux for 11/2 hr. The material crystallized upon cooling. A small portion of the solid was collected by filtration, washed with water, and dried under high vacuum. The solid was recrystallized from ethanol with refrigeration, collected by filtration, washed with ethanol/water mixture, and dried under high vacuum at 70° C. over 2 days to give 2.0 g, mp 141°-42° C.

reactant | N-[3-[(3,4-dichlorobenzoyl)amino]-2-pyridinyl]glycine ethyl ester | 0.09 mole, 33 g | C(C)OC(CNC1=NC=CC=C1NC(C1=CC(=C(C=C1)Cl)Cl)=O)=O | C16H15Cl2N3O3
solvent | ethylene glycol | 167 ml | C(CO)O | C2H6O2
product | 2-(3,4-Dichlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC(=C(C=C2)Cl)Cl)=O | C16H13Cl2N3O2
